US07101891B2
3-amino-piperidine-1-carboxylic acid methyl ester
Add acetic acid saturated with HCl(g) (100 mL, ˜3N in HCl) to 3-(trityl-amino)-piperidine-1-carboxylic acid methyl ester (6.51 g, 16.2 mmol). Stir the solution vigorously at room temperature for 2 hours. Concentrate the reaction, follow this by addition of acetonitrile and concentration to assist in the removal of acetic acid (×2). Partition the resulting material between 1N HCl and ethyl acetate, separate the layers, extract the organic layer with 1N HCl. Basify the combined aqueous layers with 5N sodium hydroxide, extract with 20% isopropanol/chloroform (×3). Dry the combined organic layers over magnesium sulfate and concentrate to give 2.45 g of the title compound as a white solid, 95% yield. 1H NMR: consistent with structure. MS (ion spray) 158 (M+).

reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | HCl | ˜3N, 100 mL | Cl | ClH
reactant | 3-(trityl-amino)-piperidine-1-carboxylic acid methyl ester | 16.2 mmol, 6.51 g | COC(=O)N1CC(CCC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H28N2O2
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-amino-piperidine-1-carboxylic acid methyl ester | 2.45 g, 95% yield | COC(=O)N1CC(CCC1)N | C7H14N2O2
